US05017604
A solution of 2-methyl-3-nitrobenzenemethanol (10.0 g, 59.8 mmol) in methanol is treated with Raney Nickel and shaken under hydrogen gas (50 psi) in a Parr Shaker. The solution is filtered through Celite and evaporated. Recrystallization of the residue from isopropyl ether gives pure 3-amino-2-methylbenzenemethanol (7.4 g, 90%), mp=106-108° C.

reactant | 2-methyl-3-nitrobenzenemethanol | 59.8 mmol, 10.0 g | CC1=C(C=CC=C1[N+](=O)[O-])CO | C8H9NO3
solvent | methanol | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
product | 3-amino-2-methylbenzenemethanol | 7.4 g, 90% | NC=1C(=C(C=CC1)CO)C | C8H11NO
